US04518785
The procedure described in Example 4 is followed, but instead of the propylene oxide solution 107 parts by volume/hour of a 50 percent strength by weight solution of ethylene oxide in methyl formate are used. In this example, only 40 parts by volume/hour of the methyl vinyl ether solution are employed. After working up as in Example 4, a mixture of 1,1,3,3-tetramethoxypropane, 2-(2',2'-dimethoxyethyl)-(1,3)-dioxolane, malondialdehyde bis-(ethyleneacetal), 1-methoxyethoxy-1,3,3-trimethoxypropane and 2-(2'-methoxy-2'-methoxyethoxy-ethyl)-(1,3)-dioxolane is obtained as the end product, the composition being as in Example 2.

reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | methyl vinyl ether | C(=C)OC | C3H6O
reactant | 1,1,3,3-tetramethoxypropane | COC(CC(OC)OC)OC | C7H16O4
reactant | 2-(2',2'-dimethoxyethyl)-(1,3)-dioxolane | COC(CC1OCCO1)OC | C7H14O4
reactant | 1-methoxyethoxy-1,3,3-trimethoxypropane | COC(C)OC(CC(OC)OC)OC | C9H20O5
solvent | methyl formate | C(=O)OC | C2H4O2
product | 2-(2'-methoxy-2'-methoxyethoxy-ethyl)-(1,3)-dioxolane | COC(CC1OCCO1)OCCOC | C9H18O5
